US04039544
Finely powdered 5-chlorosulphonyl-2-propoxybenzamide (3.0 g.; prepared from the product described in Reference Example 1) was added to a mixture of concentrated sulphuric acid (12 ml.), water (25 ml.) and ethanol (25 ml.) at -20° C. The mixture was allowed to warm to -5° C. with stirring, and then powdered zinc (6 g.) was added at such a rate that the temperature did not exceed 0° C. After stirring at between -5° C. and +5° C. for 90 minutes, then at room temperature for 90 minutes, water (50 ml.) was added and the resulting dark suspension was finally heated to boiling for approximately 75 minutes, distilling off a mixture of ethanol and water. When the temperature at the distillation head reached 96° C., distillation was stopped and the residue was cooled to room temperature. The precipitated solid was then extracted with chloroform (3 × 25 ml.). The chloroform extract was filtered to remove any remaining zinc, washed with water (2 × 10 ml.) and dried over sodium sulphate. Removal of the solvent gave an off-white solid which was recrystallised from ethanol at -30° C., to give slightly impure 2-propoxy-5-mercaptobenzamide (1.3 g.). This material was sufficiently pure for use in the next stage. Purer 2-propoxy-5-mercaptobenzamide (0.8 g.), m.p. 108° - 111° C., was obtained by further recrystallisation from a small amount of ethanol (only cooling to 0° C. instead of to -30° C.).

reactant | 5-chlorosulphonyl-2-propoxybenzamide | ClS(=O)(=O)C=1C=CC(=C(C(=O)N)C1)OCCC | C10H12ClNO4S
reactant | sulphuric acid | 12 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 25 ml | C(C)O | C2H6O
catalyst | zinc | 6 g | [Zn] | Zn
solvent | water | 50 ml | O | H2O
solvent | water | 25 ml | O | H2O
product | 2-propoxy-5-mercaptobenzamide | 1.3 g | C(CC)OC1=C(C(=O)N)C=C(C=C1)S | C10H13NO2S
